US07834021B2
8-(1-Oxidopyridin-4-yl)-1,4-dioxaspiro[4.5]decan-8-ol.
To a solution of 2.35 g (10 mmol) of 8-pyridin-4-yl-1,4-dioxaspiro[4.5]decan-8-ol (prepared following the procedure described in Example 7) in 20 mL of methylene chloride was added 2.6 g (15 mmol) of mCPBA. The reaction mixture was stirred at room temperature for 1.5 h. Direct chromatography on silica gel afforded the title compound (2.45 g, 98%).

reactant | 8-pyridin-4-yl-1,4-dioxaspiro[4.5]decan-8-ol | 10 mmol, 2.35 g | N1=CC=C(C=C1)C1(CCC2(OCCO2)CC1)O | C13H17NO3
reactant | mCPBA | 15 mmol, 2.6 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 8-(1-Oxidopyridin-4-yl)-1,4-dioxaspiro[4.5]decan-8-ol | 2.45 g, 98% | [O-][N+]1=CC=C(C=C1)C1(CCC2(OCCO2)CC1)O | C13H17NO4
